US07842838B2
b) 2-Amino-5-nitrobenzenesulfonamide
To a suspension of 2-amino-5-nitro-benzenesulfonic acid (3.00 g, 13.75 mmol) in sulfolane (10 mL) was slowly added phosphorous oxychloride (3.43 mL, 37.47 mmol) at 25° C. The mixture was heated at 120° C. for 3.5 h, allowed to cool to 25° C. and slowly poured into aqueous ammonium hydroxide solution (30 mL) at 25° C. The pH of the solution was adjusted to ca. 6-7 upon which a solid precipitated. The solid was collected by vacuum filtration and the precipitate was washed water (100 mL) and dried in vacuo for 16 h at 60° C. to afford the desired product, 2-amino-5-nitrobenzenesulfonamide (1.87 g, 8.62 mmol, 63% yield) as a yellow-brown solid.

reactant | 2-amino-5-nitro-benzenesulfonic acid | 13.75 mmol, 3.00 g | NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)O | C6H6N2O5S
reactant | phosphorous oxychloride | 37.47 mmol, 3.43 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
solvent | sulfolane | 10 mL | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-amino-5-nitrobenzenesulfonamide | 8.62 mmol, 1.87 g, 63% yield | NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C6H7N3O4S
